Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o HCV cirrhosis s/p OLT ___ who presents with chest 
discomfort and ___. Patient states that yesterday (___) he 
developed sharp pleuritic type chest pain that was worse with 
deep inspiration. He has never had pain like this before. Pain 
did not travel. It persisted for at least one day and prompted 
him to present to outside hospital. There an EKG was negative 
for acute ischemia and initial troponin was reported as 
indeterminate near his baseline. Due to elevated creatinine, 
patient was unable to undergo CTA and was transferred here. 
Patient with history of liver transplant ___ years ago and 
infected hardware in the left knee that has been removed several 
months ago while he waits for a new knee repair. Currently 
anticoagulated with Coumadin for history of PE and atrial 
fibrillation. Patient states he does not remember what his prior 
PE felt like. In the ED his CP resolved. On arrival to the floor 
he complained only of right Knee pain for which he receives high 
doses of narcotics at his rehab. He reports pain is ___ 
currently compared to ___ yesterday, but he will not beable to 
sleep with this level of pain.  

In the ED, initial vitals were:  
98.2 67 123/68 19 99% 2L Nasal Cannula  
- Labs were significant for  
CBC  
5.5 9.7 199  
28.6  
N:70.5 L:22.1 M:7.1 E:0 Bas:0.___.0 PTT: 37.1 INR: 3.4  
Trop-T: 0.13  
Chem 7  
131 94 72  
------------<125  
4.4 26 2.2  
ALT: 25 AP: 129 Tbili: 0.8 Alb: 3.0  
AST: 12  
- Imaging revealed  
OSH CXR was without consolidation  
ECG was Afib with RBBB stable from ___  
 
-The patient was given  
0.5 mg IV dilaudid x 1  
Vitals prior to transfer were:  
97.8 66 136/68 18 98% RA  
Upon arrival to the floor,  
T 97.8 BP 92/50 p 61 R 18 98% On RA  

REVIEW OF SYSTEMS:  
(+) Per HPI Of not he has not urinated in 12 hours  
(-) Chest paint resolved in ED Denies fever, chills, night 
sweats, recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel habits. No dysuria. 
 
Past Medical History:
1. Hep C Cirrhosis s/p transplant at ___ on ___  
-- Discharged from ___, presented to ___ 8 weeks post op for  
prolonged hosp stay complicated by encephalopathy (due to  
cyclosporine and tacrolimus), transient ischemic attack,  
neutropenia, thrombocytopenia, mild acute rejection, acute  
kidney injury, hypertension (cyclosporine related), recurrent c.
difficile infection, and lower extremity edema  
-- ___: portal vein thrombus with found incidental PE. U/S  
of ___ negative for DVT. No anticoag at that time d/t bleeding  
risk.  
-- ___: Pt admitted to OSH with left ___ DV (fem-pop).  
Preceded by episode of imobility from hospitalization for  
pneumonia. Pt started on coumadin since this time with INR goal 
___.  
-- ___: left DVT in the setting of seemingly on  
therapeutic anticoagulation with coumadin  
-- BM suppression posttransplant: ___ BM Aspirate dyspoiesis 
with myeloid and erythroid lineages along with megakaryocytic 
hyperplasia  
-- Posttransplant skin cancer: scalp lesion/squamous cell  
carcinoma, R distal dorsal arm/squamous cell carcinoma, L  
chest/basal cell carcinoma (s/p MOHs)  
-- pseudogout, knee aspiration, s/p steroid injection  
-- ___ edema, started lasix ___  
2. H/O Esophageal varices, PVT prior to transplant: Most recent 
BI records with ___ EGD without varicies  
3. AVNRT s/p ablation in ___  
4. Atrial fibrillation: failed CV immed post-tx, on coumadin  
5. Melanoma status post excision in 1980s  
6. Septic meningitis in ___  
7. Osteoarthritis in the knees status post arthroscopy and left 
knee replacement c/b septic joint on abx in ___.  
8. Aphthous stomatitis  
9. Asthma  
10. GERD  
11. High tibial osteotomy  
12. s/p bilaterally cataract extraction  
13. s/p Appendectomy  
14. C. diff several times (4x) in ___ prior to transplant  
15. History of CMV viremia.  
16. History of acute rejection of a liver transplant.  
 
Social History:
___
Family History:
The patient's father had bilateral lower extremity amputations 
but had no clots prior to the surgery. There is no history of 
VTE in the family. There is no history of miscarriages in the 
family either. 

 
Physical Exam:
ADMISSION EXAM:  
================
Vitals: T 97.8 BP 92/50 p 61 R 18 98% On RA  
General: Alert, oriented, mildly distraught regarding right knee 
pain  
HEENT: Sclera anicteric, dry oropharynx, EOMI  
Neck: Supple  
CV: Regular rate and rhythm, ___ SEM at apex  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: obese, soft,  
Ext: Cool, pitting edema to sacrum bilaterally, R knee non ttp 
but tender to flexion/extension and varous/valgus stress  
Neuro: A+Ox3 ___ motor exam limited ___ pain  

DISCHARGE EXAM:
================
Vitals: T 97.5, HR 81, BP 179/95, RR 22, SaO2 99% RA
General: Alert, oriented, NAD, chronically ill-appearing 
HEENT: Sclera anicteric, oropharynx wnl, MMM, EOMI  
Neck: Supple, no JVD 
CV: Irregular rhythm, normal rate, no murmurs
Lungs: Limited exam, clear to auscultation anteriorly
Abdomen: +BS, obese, soft, nontender, nondistended  
Ext: WWP, ___ pitting edema bilaterally, compression dressings 
in place. L knee in brace.
Neuro: Oriented to self, place, and year (not day or month), no 
asterixis, ___ motor exam limited ___ pain, sensation to light 
touch intact
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:20AM BLOOD WBC-5.5 RBC-3.23* Hgb-9.7* Hct-28.6* 
MCV-89 MCH-30.2 MCHC-34.1 RDW-16.3* Plt ___
___ 12:20AM BLOOD Neuts-70.5* ___ Monos-7.1 Eos-0 
Baso-0.2
___ 12:20AM BLOOD ___ PTT-37.1* ___
___ 12:20AM BLOOD Plt ___
___ 12:20AM BLOOD Glucose-125* UreaN-72* Creat-2.2* Na-131* 
K-4.4 Cl-94* HCO3-26 AnGap-15
___ 12:20AM BLOOD ALT-25 AST-12 AlkPhos-129 TotBili-0.8
___ 12:20AM BLOOD CK-MB-1 cTropnT-0.13*
___ 05:40AM BLOOD CK-MB-1 cTropnT-0.14*
___ 09:45AM BLOOD CK-MB-2 cTropnT-0.15*
___ 12:20AM BLOOD Albumin-3.0*
___ 05:40AM BLOOD Albumin-3.0* Calcium-9.1 Phos-4.1 Mg-1.6
___ 05:40AM BLOOD Osmolal-300
___ 05:40AM BLOOD Cyclspr-80*
___ 02:46PM URINE Color-LtAmb Appear-SlHazy Sp ___
___ 02:46PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG
___ 02:46PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 02:46PM URINE CastHy-8*
___ 02:46PM URINE Mucous-OCC
___ 02:46PM URINE Hours-RANDOM Creat-139 Na-15 K-63 Cl-<10
___ 02:46PM URINE Osmolal-369

OTHER PERTINENT LABS:
======================
___ 05:45AM BLOOD Cyclspr-157
___ 08:00AM BLOOD Cyclspr-114
___ 05:35AM BLOOD Cyclspr-140
___ 08:55AM BLOOD Cyclspr-339
___ 04:47AM BLOOD Cyclspr-77*
___ 05:40AM BLOOD Cyclspr-86*
___ 05:24AM BLOOD Cyclspr-81*
___ 06:40AM BLOOD Cyclspr-82*

DISCHARGE LABS:
================
___ 05:40AM BLOOD WBC-4.5 RBC-3.08* Hgb-9.1* Hct-27.4* 
MCV-89 MCH-29.5 MCHC-33.1 RDW-15.6* Plt ___
___ 05:40AM BLOOD ___ PTT-36.1 ___
___ 05:40AM BLOOD Glucose-121* UreaN-57* Creat-2.1* Na-130* 
K-4.3 Cl-91* HCO3-33* AnGap-10
___ 05:40AM BLOOD ALT-12 AST-9 AlkPhos-133* TotBili-0.8
___ 05:40AM BLOOD Calcium-9.7 Phos-3.9 Mg-1.7

MICROBIOLOGY:
==============
___ 11:48 pm URINE      Source: Catheter. 

**FINAL REPORT ___

URINE CULTURE (Final ___: 
PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML.. 
PRESUMPTIVE IDENTIFICATION. 

SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ 2:46 pm URINE      Source: Catheter. 

URINE CULTURE (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
=========
TTE (___):
The left atrium is elongated. The right atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
There is a small pericardial effusion. There are no 
echocardiographic signs of tamponade. 
Compared with the prior study (images reviewed) of ___, 
the degree of MR seen has decreased. AS is not appreciated.  

CXR (___):
There is a right-sided PICC line terminating in the mid SVC.  
Patient rotation contributes to exaggeration of the cardiac 
size, which is likely normal. Segmental atelectasis is noted, 
particular in the right lung, although there does appear to be 
new pulmonary edema superimposed on this. There may be small 
tiny effusions. There is no pneumothorax. 

Renal U/S (___):
IMPRESSION:  
1. No evidence of hydronephrosis. 
2. Extremely limited Doppler evaluation due to technically 
limited study, 
demonstrating both kidneys to be vascularized.  No further 
Dopp;er analysis could be obtained. 
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with HCV cirrhosis ___ years 
s/p OLD and h/o DVT and PE (on Coumadin) who was transferred 
from an OSH with chest pain, which resolved on admission, but 
found to have supratherapeutic INR and ___.

# Acute on chronic kidney disease:  Cr up to 2.2 on admission 
from baseline of 1.4-1.5.  Cr rose to 2.7 after albumin/IVF 
boluses.  Muddy brown casts were seen on urine sediment.  Per 
renal, multiple hypotensive episodes and bradycardia likely 
resulted in ATN.  Patient's creatinine slowly improved after 
starting diuretics.  Cr on discharge was 2.1.  Kidney function 
is expected to recover with time.

# Anasarca:  Patient was grossly anasarcic after being volume 
resuscitated with albumin for hypotension.  TTE was largely 
unchanged.  Patient was diuresed with 40-80 mg IV Lasix/day and 
his edema improved.  He was discharged on torsemide 40 mg po 
daily.

# Hepatitis C cirrhosis s/p OLT:  Transplanted in ___, on 
cyclosporine 75 mg q12h.  MMF was stopped in clinic in 
___ and LFTs remained normal.  HCV VL 342,000 IU/mL on 
___.  Last biopsy was performed at previous admission 
revealed Grade ___ inflammation, no acute cellular rejection, no 
steatosis or ballooning, and stage ___ fibrosis.   Atovaquone 
was continued for prophylaxis.  Cyclosporine was decreased to 50 
mg q12h and levels were monitored.

# Supratherapeutic INR:  Patient's Coumadin was held on 
admission for supratherapeutic INR.  He received vitamin K for 
INR 5.2 and INR then became subtherapeutic.  Warfarin was 
restarted with a heparin gtt until INR became therapeutic.  INR 
became supratherapeutic again and Coumadin dose was adjusted.  
INR on discharge was 3.6.  He was discharged on Coumadin 1 mg 
daily.

# Hypertension:  Patient was initially hypotensive and losartan 
and diuretics were held.  He received an albumin bolus with 
improvement in his blood pressure.  He then became hypertensive 
during the latter part of his hospitalization (SBP up to 
170/180s).  Losartan continued to be held given ___.  Patient 
was started on amlodipine 5 mg daily, which can be uptitrated as 
needed.

# Prior left knee infection s/p hardware removal in ___:  
Patient has chronic pain related to his previous knee 
infection/hardware removal.  He also has shallow venous stasis 
ulcers on bilateral lower extremities.  Patient's orthopedic 
surgeon plans to replace his knee hardware once his ulcers have 
healed and his leg swelling has resolved.  Patient's pain was 
well-controlled on home Oxycontin and po Dilaudid.  He became 
confused after receiving IV Dilaudid, so this was avoided.   

# Catheter-associated UTI:  Initial urine culture was negative.  
Repeat urine culture after catheter was placed grew >100,000 
Klebsiella sensitive to ceftriaxone.  Foley was exchanged and 
patient completed a 7 day course of ceftriaxone.  Foley was 
removed prior to discharge.

# Chest Pain:  Patient had chest pain at OSH, which resolved on 
admission here.  No ischemic changes on EKG and three sets of 
cardiac enzymes were negative.  Considered PE, especially given 
h/o prior PE, but patient had been therapeutic on Coumadin.  CTA 
was deferred given ___.

# Atrial fibrillation/pauses:  Not on agents for rate or rhythm 
control.  During last admission (___), patient was 
bradycardic at night with ___ second pauses seen on telemetry. 
 Patient continued to have pauses with HR ___, though rates 
improved to ___ without intervention.  It is unclear if these 
pauses are contributing to hypotensive episodes.  Patient is 
followed by Dr. ___ have further outpatient EP 
evaluation if warranted. 
 
# Hyponatremia:  Na persistently low (as low as 130s), which is 
chronic per review of prior discharge summaries.  Hyponatremia 
neither responded to nor worsened with albumin or diuretics.

TRANSITIONAL ISSUES:
=====================
[ ] Please check labs (CBC, CMP, LFTs, cyclosporine level, INR, 
and PTT) on ___. Send labs to the ___ at ___ 
___.
[ ] INR 3.6 on discharge. Please hold Coumadin on ___. 
Restart Coumadin at 1 mg daily on ___. Recheck INR on 
___. Goal INR 2.0-3.0
[ ] Patient was started on torsemide 40 mg daily for leg edema. 
This should be decreased/discontinued if kidney function 
worsens.
[ ] Losartan held given ___. Amlodipine 5 mg daily started for 
hypertension. Uptitrate to 10 mg daily as needed for blood 
pressure.
[ ] Cyclosporine dose decreased from 75 mg q12h to 50 mg q12h.
[ ] Patient is followed by Dr. ___. Consider further 
evaluation of bradycardia/pauses if indicated (note: bradycardia 
improved, pauses persisted)
[ ] Patient will have follow-up scheduled with orthopedics and 
neurology (for pre-op clearance, per ortho). Ortho plans to 
replace his left knee after venous stasis ulcers have healed and 
after lower extremity swelling has resolved.
[ ] PICC kept in place given need for frequent lab draws. 
# Code: Full (confirmed) 
# Emergency contact/HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Bisacodyl ___AILY:PRN constipation 
4. CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 
5. Fluoxetine 20 mg PO DAILY 
6. Gabapentin 200 mg PO TID 
7. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 
8. Losartan Potassium 25 mg PO DAILY 
9. Omeprazole 40 mg PO BID 
10. Ranitidine 75 mg PO BID:PRN heartburn 
11. Senna 17.2 mg PO QHS 
12. Vitamin D ___ UNIT PO DAILY 
13. Warfarin 2.5 mg PO DAILY16 
14. Lactulose 30 mL PO TID 
15. Ondansetron 4 mg PO Q8H:PRN nausea 
16. Acidophilus (L.acidoph & 
___ acidophilus) 175 mg oral 
BID  
17. Ferrous Sulfate 325 mg PO DAILY 
18. Polyethylene Glycol 17 g PO EVERY OTHER DAY 
19. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
20. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Bisacodyl ___AILY:PRN constipation 
4. CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Fluoxetine 20 mg PO DAILY 
7. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 
RX *hydromorphone 4 mg 1 tablet(s) by mouth q6h prn Disp #*10 
Tablet Refills:*0
8. Lactulose 30 mL PO QID 
9. Omeprazole 40 mg PO BID 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. Polyethylene Glycol 17 g PO EVERY OTHER DAY 
12. Ranitidine 75 mg PO BID:PRN heartburn 
13. Senna 17.2 mg PO QHS 
14. Vitamin D ___ UNIT PO DAILY 
15. Warfarin 1 mg PO DAILY16 
16. Amlodipine 5 mg PO DAILY 
17. Torsemide 40 mg PO DAILY 
18. Lidocaine 5% Patch 1 PTCH TD QAM 
19. Acidophilus (L.acidoph & 
___ acidophilus) 175 mg oral 
BID  
20. OxyCONTIN (oxyCODONE) 10 mg oral Q12H 
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Acute on chronic kidney disease

SECONDARY DIAGNOSES:
=====================
Hypertension
Catheter-associated urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___.  You 
were admitted because your kidney function was abnormal.  This 
was likely due to damage to your kidneys from intermittently 
having low blood pressure.  Your kidney function slowly 
recovered and will hopefully continue to improve.  You were 
given medications to remove fluid from your legs.  After your 
leg swelling resolves and your leg ulcers heal, the orthopedic 
surgeons will replace your knee.  Your blood pressure became 
high, so you were started on a new medication to help with this.

It is very important that you continue to take your medications 
as prescribed and keep your follow-up appointments.

We wish you good health!

Sincerely,
Your ___ Team
 
Followup Instructions:
___